US04808578
10β-(2-propynyl)-6-methylenestra-1,4-diene-3,17-dione [I, X=H, R2 =H, R1 =CH2, Y=O, n=1, =double bond]
To a solution of 480 mg of 10β-(2-propynyl)-6-methylenestr-4-ene-3,17-dione in 15 ml of dioxane are added 511 mg of dichlorodicyanoquinone (DDQ) and 571 mg of p-toluenesulfonic acid, and the mixture is refluxed for half an hour.

reactant | 10β-(2-propynyl)-6-methylenestr-4-ene-3,17-dione | 480 mg | C(C#C)[C@]12CCC(C=C1C(C[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=C)=O | C22H26O2
reactant | p-toluenesulfonic acid | 571 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | 10β-(2-propynyl)-6-methylenestra-1,4-diene-3,17-dione | C(C#C)[C@]12C=CC(C=C1C(C[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=C)=O | C22H24O2
